US04791110
3,6-dichloro-4-(1-hydroxymethyl-1-methylethyl)pyridazine
To a 5-liter flask were added 341 g. of 2,2-dimethyl-1,3-propanediol, 500 ml. of water, 223 g. of 3,6-dichloropyridazine, 100 ml. of sulfuric acid in 900 ml. of water and 51 g. of silver nitrate. To the mixture was then added, dropwise, with an insulating mantle around the flask, 600 g. of ammonium persulfate dissolved in 1 liter of water. The addition was carried out in about 20 minutes, while the temperature rose from 33° to 86°. When the addition was complete, the insulating mantle was removed and the flask was placed in a water bath to cool it. When the temperature had reached 40°, 1200 ml. of dichloromethane was added and the mixture was stirred for 10 minutes more and filtered through a polypropylene filter pad. The solids were washed with 500 ml. of dichloromethane, and the layers of the combined filtrate were separated. The aqueous layer was extracted with 1 liter of dichloromethane, and the combined organic layers were extracted with 1 liter of water, and dried over sodium sulfate. The solvent was removed under vacuum, to leave 385 g. of a gummy solid. Most of the solid was removed and dissolved in 1200 ml. of toluene at 85°. It was then cooled to 0° and filtered, and the solids were washed with cold toluene and dried under vacuum to obtain 152 g. of the desired intermediate product, 97% pure by nuclear magnetic resonance analysis, m.p. 133°-136°.

reactant | 2,2-dimethyl-1,3-propanediol | CC(CO)(CO)C | C5H12O2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
solvent | water | 1 liter | O | H2O
catalyst | silver nitrate | [N+](=O)([O-])[O-].[Ag+]
product | 3,6-dichloro-4-(1-hydroxymethyl-1-methylethyl)pyridazine | ClC=1N=NC(=CC1C(C)(C)CO)Cl | C8H10Cl2N2O
